US05208263
2-Acetoxyphenanthrene (12)
A solution of 2.2 g (10 mmol) of 2-acetylphenanthrene in 50 mL of CH2Cl2 was stirred with 3.45 g (20 mmol) of m-chloro-peroxybenzoic acid for 3 h and allowed to stand for 93 h at room temperature. The solution was washed twice with 5% KOH solution and once with H2O, was dried and the solvent removed. From MeOH there was obtained 1.52 g of the title compound, m.p. 141°-142.5°.

reactant | 2-acetylphenanthrene | 10 mmol, 2.2 g | C(C)(=O)C1=CC=2C=CC3=CC=CC=C3C2C=C1 | C16H12O
reactant | m-chloro-peroxybenzoic acid | 20 mmol, 3.45 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Acetoxyphenanthrene | 1.52 g | C(C)(=O)OC1=CC=2C=CC3=CC=CC=C3C2C=C1 | C16H12O2
